US04680296
1-[2-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-ethyl]-1,3-dihydro-2(2H)-benzimidazolone
A mixture of 2.7 g (0.01 mole) of alpha,alpha-diphenyl-4-piperidinemethanol, 2.4 g (0.01 mole) of 1-(1-bromo-2-ethyl)-2-benzimidazolone, 1.2 g of sodium carbonate (Na2CO3), and a crystal of sodium iodide in 75 ml of methyl isobutyl ketone is heated at reflux temperature for 18 h.

reactant | alpha,alpha-diphenyl-4-piperidinemethanol | 0.01 mole, 2.7 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 1-(1-bromo-2-ethyl)-2-benzimidazolone | 0.01 mole, 2.4 g | BrCCN1C(NC2=C1C=CC=C2)=O | C9H9BrN2O
reactant | sodium carbonate | 1.2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | [I-].[Na+]
solvent | methyl isobutyl ketone | 75 ml | C(C(C)C)C(=O)C | C6H12O
product | 1-[2-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-ethyl]-1,3-dihydro-2(2H)-benzimidazolone | OC(C1CCN(CC1)CCN1C(NC2=C1C=CC=C2)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C27H29N3O2
